US04698337
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.05 g.) and conc. hydrochloric acid (1.52 g.) in methanol (30 ml.) and tetrahydrofuran (20 ml.) was stirred at room temperature for 2 hours. After the solvent was evaporated in vacuo, the residue was dissolved in 10% aqueous solution of sodium hydroxide. After filtration, the filtrate was adjusted to pH 3.0 with 10% hydrochloric acid and stirred under ice-cooling for 30 minutes. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.25 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.05 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC#N | C18H16N10O6S3
reactant | hydrochloric acid | 1.52 g | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.25 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC#N | C17H16N10O5S3
